US05149767
A solution of 269.0 g (1.12 mol) of sodium sulfide hydrate and 12.0 g of tetrabutylammonium hydrogen sulfate (phase transfer catalyst) in 300 ml of water is introduced into a reaction vessel provided with a stirrer and thermometer. 212.6 g (1.52 mol) of 4-methylbenzyl chloride are added dropwise at below 40° C. in the course of 30 minutes (min), while stirring intensively. The reaction mixture is stirred at room temperature (RT) for 4 1/2 hours (h) and then at 50°-60° C. for 1/2 h. The reaction mixture is cooled to 0°-5° C. and kept at this temperature for 1/2 h. The reaction mixture is filtered and the residue is dissolved in about 2 liters of ethyl acetate. The organic phase is extracted twice by shaking with deionized water (pH ~6) and dried over MgSO4. The ethyl acetate is removed on a rotary evaporator. The residue is dried overnight at RT under a high vacuum. 174.8 g (95% of theory) of di-(p-methylbenzyl) sulfide are obtained as slightly yellowish white crystals having a melting point of 74°-76° C.

reactant | sodium sulfide hydrate | 1.12 mol, 269.0 g | O.[S-2].[Na+].[Na+]
reactant | 4-methylbenzyl chloride | 1.52 mol, 212.6 g | CC1=CC=C(CCl)C=C1 | C8H9Cl
catalyst | tetrabutylammonium hydrogen sulfate | 12.0 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 300 ml | O | H2O
product | di-(p-methylbenzyl) sulfide | 174.8 g, 95% | CC1=CC=C(CSCC2=CC=C(C=C2)C)C=C1 | C16H18S
